US07652041B2
3-(3-chloro-4-hydroxyphenyl)-N-[4-chloro-3-(trifluoromethyl)phenyl]-propanamide
To a solution of N-[4-chloro-3-(trifluoromethyl)phenyl]-3-(4-hydroxyphenyl)propanamide (1.33 g, 3.89 mmol) in DCE was added sulfuryl chloride (4.28 mL, 4.28 mmol) slowly over 45 min. The reaction mixture was heated at 84° C. overnight and then additional sulfuryl chloride was added. After heating for 2 h, the reaction mixture was cooled to rt and diluted with EtOAc. The combined organic solutions were washed with water and brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give the title compound (0.66 g, 45%).

reactant | N-[4-chloro-3-(trifluoromethyl)phenyl]-3-(4-hydroxyphenyl)propanamide | 3.89 mmol, 1.33 g | ClC1=C(C=C(C=C1)NC(CCC1=CC=C(C=C1)O)=O)C(F)(F)F | C16H13ClF3NO2
reactant | sulfuryl chloride | 4.28 mmol, 4.28 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | DCE | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-chloro-4-hydroxyphenyl)-N-[4-chloro-3-(trifluoromethyl)phenyl]-propanamide | 0.66 g, 45% | ClC=1C=C(C=CC1O)CCC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C16H12Cl2F3NO2
